US07361763B2
A solution of (2-amino-5-bromo-pyridin-3-yl)-(6-fluoro-pyridin-3-yl)-methanone (120 mg, 0.405 mmol), ammonium chloride (5 equiv.), and triethyl amine (5 eq.) in absolute ethanol (0.2 M) was sealed in a Smith process vial. The reaction was heated in a Personal Chemistry® microwave reactor to 200° C. for 25 minutes. The mixture was diluted with water, and the resulting yellow precipitate was filtered off, washed with water, and dried in vacuo. The crude product was mixed with 3,4-dimethoxyphenyl boronic acid (1.3 equiv.), 6 mol % of dichlorbis(triphenylphosphino) palladium (II) and a 3:2:1 mixture of acetonitrile, water, and a 2 M aqueous solution of sodium carbonate (0.11 M). The reaction was run in a Personal Chemistry® microwave reactor at 165° C. for 1200 s. Water was added and the mixture was extracted three times with ethyl acetate. Purification was accomplished by flash chromatography on silica gel with a gradient of ethyl acetate/hexanes and afforded [2-amino-5-(3,4-dimethoxy-phenyl)-pyridin-3-yl]-(6-amino-pyridin-3-yl)-methanone as a yellow solid (37 mg, 31% yield). 1H NMR (DMSO-d6): δ 8.50 (d, J=2.5 Hz, 1H), 8.29 (d, J=2.0 Hz, 1H), 7.86 (d, J=2.0 Hz, 1H), 7.75 (dd, J=2.0, 8.5 Hz, 1H), 7.15 (d, J=2.0 Hz, 1H), 7.06 (m, 3H), 6.98 (d, J=8.0 Hz, 1H), 6.92 (broad s, 2H), 6.50 (d, J=9.0 Hz, 1H), 3.80 (s, 3H), 3.75 (s, 3H). HPLC/MS m/z: 351 [MH+].

reactant | (2-amino-5-bromo-pyridin-3-yl)-(6-fluoro-pyridin-3-yl)-methanone | 0.405 mmol, 120 mg | NC1=NC=C(C=C1C(=O)C=1C=NC(=CC1)F)Br | C11H7BrFN3O
reactant | ammonium chloride | 5 equiv. | [Cl-].[NH4+]
reactant | triethyl amine | 5 eq. | C(C)N(CC)CC | C6H15N
reactant | 3,4-dimethoxyphenyl boronic acid | 1.3 equiv. | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | sodium carbonate | 0.11 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 0.2 M | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | dichlorbis(triphenylphosphino) palladium (II) | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | [2-amino-5-(3,4-dimethoxy-phenyl)-pyridin-3-yl]-(6-amino-pyridin-3-yl)-methanone | 37 mg, 31% yield | NC1=NC=C(C=C1C(=O)C=1C=NC(=CC1)N)C1=CC(=C(C=C1)OC)OC | C19H18N4O3
